US05635527
(1) Ethyl 4-aminophenoxyacetate
4-Nitrophenol (25.0 g, 180 mmol) and ethyl bromoacetate (20.0 ml, 180 mmol) were dissolved in N,N-dimethylformamide (40 ml), and potassium carbonate (27.4 g, 198 mmol) was added. The mixture was stirred at room temperature for 16 hours under a nitrogen atmosphere. The reaction mixture was poured into water (100 ml) and extracted with an equivalent mixture of n-hexane and ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. After filtration, low boiling matters were distilled away from the filtrate under reduced pressure to quantitatively give 40.5 g of ethyl 4-aminophenoxyacetate as a colorless solid.

reactant | 4-Nitrophenol | 180 mmol, 25.0 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | ethyl bromoacetate | 180 mmol, 20.0 ml | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 198 mmol, 27.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | Ethyl 4-aminophenoxyacetate | NC1=CC=C(OCC(=O)OCC)C=C1 | C10H13NO3
